US08076482B2
Preparation of intermediate E/Z-6-chloro-3-(5-chloro-4-fluoro-2-methoxy-benzylidene)-1,3-dihydro-indol-2-one
To the mixture of 6-chloro-1,3-dihydro-indol-2-one (3.4 g, 20.3 mmol) and 5-chloro-4-fluoro-2-methoxy-benzaldehyde (3.2 g, 17 mmol) in methanol (50 mL) was added pyrrolidine (1.2 g, 17 mmol) dropwise. Then the mixture was heated at 70° C. for 1 h. After cooled to room temperature, the mixture was filtered to give the crude product which was used for the next step reaction without further purification.

reactant | 6-chloro-1,3-dihydro-indol-2-one | 20.3 mmol, 3.4 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | 5-chloro-4-fluoro-2-methoxy-benzaldehyde | 17 mmol, 3.2 g | ClC=1C(=CC(=C(C=O)C1)OC)F | C8H6ClFO2
reactant | pyrrolidine | 17 mmol, 1.2 g | N1CCCC1 | C4H9N
solvent | methanol | 50 mL | CO | CH4O
product | Z-6-chloro-3-(5-chloro-4-fluoro-2-methoxy-benzylidene)-1,3-dihydro-indol-2-one | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=C(C(=C1)Cl)F)OC | C16H10Cl2FNO2
